US07977331B1
To a solution of tert-butyl 3-hydroxypiperidine-1-carboxylate (2.00 g, 9.94 mmol) in chloroform (20 ml) were successively added p-toluenesulfonyl chloride (2.27 g, 11.9 mmol) and triethylamine (1.66 ml, 11.9 mmol) at 0° C., and the mixture was stirred at 70° C. for 9 hr. The reaction mixture was allowed to cool to room temperature, water was added to the reaction mixture and the mixture was extracted with chloroform. The organic layer was successively washed with water and saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was concentrated under reduced pressure, and the residue was purified by silica gel chromatography (ethyl acetate:hexane=1:1) to give tert-butyl 3-(toluene-4-sulfonyloxy)piperidine-1-carboxylate (1.00 g, yield 28%).

reactant | tert-butyl 3-hydroxypiperidine-1-carboxylate | 9.94 mmol, 2.00 g | OC1CN(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | p-toluenesulfonyl chloride | 11.9 mmol, 2.27 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 11.9 mmol, 1.66 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 3-(toluene-4-sulfonyloxy)piperidine-1-carboxylate | 1.00 g, yield 28% | C1(=CC=C(C=C1)S(=O)(=O)OC1CN(CCC1)C(=O)OC(C)(C)C)C | C17H25NO5S
